US03995028
Acid hydrolysis: Acid hydrolysis with 6N-HCl yields alanine, and acid hydrolysis with 6N-HCl subsequent to oxidation with HIO4 yields glutamic acid.

reactant | HCl | Cl | ClH
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
